US07034045B1
Preparation of 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2yl)phenylethanone
4-Iodo acetophenone (10.00 g, 40.64 mmol), PdCl2(dppf).CH2Cl2 (1.00 g, 1.22 mmol) dry dioxane (160 mL) and Et3N (17.0 mL, 121.96 mmol) were combined in a dry flask which had been purged with N2 several times. Pinacol borane (8.80 mL, 60.96 mmol) was added and the reaction mixture was heated at reflux for 4 h then cooled to ambient temperature, poured into Diethyl ether (250 mL) and extracted with H2O and washed with brine. The Diethyl ether was dried (MgSO4), filtered and the filtrate concentrated in vacuo. Purification by gradient chromatography on silica (hexane, 5% EtOAc/hexane) followed by recrystallization (hexane) gave 6.4 g (64%) of the intermediate title compound as a white powder.

reactant | 4-Iodo acetophenone | 40.64 mmol, 10.00 g | CC(=O)C1=CC=C(C=C1)I | C8H7IO
reactant | CH2Cl2 | 1.22 mmol, 160 mL, 1.00 g | C(Cl)Cl | CH2Cl2
reactant | Et3N | 121.96 mmol, 17.0 mL | CCN(CC)CC | C6H15N
reactant | Pinacol borane | 60.96 mmol, 8.80 mL | B.OC(C)(C)C(C)(C)O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2yl)phenylethanone | 6.4 g, 64% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(C)=O)C | C14H19BO3
